US07538121B2
Ethyl 6-(4-fluorophenyl)-2-methylnicotinate
The title compound was prepared from dimethylamino-(4-fluorophenyl)propan-1-one and ethyl 3-aminocrotonate using the general procedure outlined in D18. MS (ES): MH+ 260.

reactant | dimethylamino-(4-fluorophenyl)propan-1-one | CN(C)C(C(=O)C1=CC=C(C=C1)F)C | C11H14FNO
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | Ethyl 6-(4-fluorophenyl)-2-methylnicotinate | FC1=CC=C(C=C1)C1=NC(=C(C(=O)OCC)C=C1)C | C15H14FNO2
